US06162818
4-Dimethylaminopyridine (0.031 g, 0.256 mmol) and di-2-pyridyl thionocarbonate (0.983 g, 4.23 mmol) are added to a solution of 4-amino-3-chloroindole (0.655 g, 2.82 mmol) in methylene chloride. The resulting mixture is stirred at room temperature for 1 hour. The volatile organics are removed by rotary evaporation and the crude residue is purified via silica gel column chromatography using 20% ethyl acetate/hexanes as the eluent. The appropriate fractions are combined and the solvents removed by rotary evaporation to yield 0.511 g of 3-chloro-4-isothiocyanatoindole as a yellow solid (96%).

reactant | di-2-pyridyl thionocarbonate | 4.23 mmol, 0.983 g | C1=CC=NC(=C1)OC(=S)OC2=CC=CC=N2 | C11H8N2O2S
reactant | 4-amino-3-chloroindole | 2.82 mmol, 0.655 g | NC1=C2C(=CNC2=CC=C1)Cl | C8H7ClN2
catalyst | 4-Dimethylaminopyridine | 0.256 mmol, 0.031 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-chloro-4-isothiocyanatoindole | 0.511 g, 96% | ClC1=CNC2=CC=CC(=C12)N=C=S | C9H5ClN2S
